US06881737B2
2,4-Dichloro-1,3,5-triazine (173.7 mg, 1.158 mmol) was dissolved into DMF (1 ml). To the stirring solution, cooled to 0° C., was added DIEA (202 μl , 1.158 mmol). This solution was added dropwise to a 0° C. mix of DMF (1 ml) and 3-aminophenyl acetamide. The reaction was stirred at 0° C. for 15 min and then at RT for 1 h. The reaction mix was diluted with EtOAc and water. The layers were separated, and the aqueous layer was extracted twice with EtOAc. The combined organic layer was washed 3 times with brine, dried over Na2SO4, and concentrated under reduced pressure, giving 2-[3-(4-chloro-[1,3,5]triazin-2-ylamino)-phenyl]acetamide.

reactant | 2,4-Dichloro-1,3,5-triazine | 1.158 mmol, 173.7 mg | ClC1=NC=NC(=N1)Cl | C3HCl2N3
reactant | DMF | 1 ml | CN(C)C=O | C3H7NO
reactant | DIEA | 1.158 mmol, 202 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | DMF | 1 ml | CN(C)C=O | C3H7NO
reactant | 3-aminophenyl acetamide | NC=1C=C(C=CC1)CC(=O)N | C8H10N2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 2-[3-(4-chloro-[1,3,5]triazin-2-ylamino)-phenyl]acetamide | ClC1=NC(=NC=N1)NC=1C=C(C=CC1)CC(=O)N | C11H10ClN5O
